US08389511B2
Benzyl 3-(isopropyl{[4-(4-methoxybutyl)-2,2-dimethyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}amino)pyrrolidine-1-carboxylate
Using 4-(4-methoxybutyl)-2,2-dimethyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylic acid and benzyl 3-(isopropylamino)pyrrolidine-1-carboxylate, the title compound was obtained in a similar manner to Reference Example 5.

reactant | 4-(4-methoxybutyl)-2,2-dimethyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazine-6-carboxylic acid | COCCCCN1C(C(OC2=C1C=C(C(=C2)C(F)(F)F)C(=O)O)(C)C)=O | C17H20F3NO5
reactant | benzyl 3-(isopropylamino)pyrrolidine-1-carboxylate | C(C)(C)NC1CN(CC1)C(=O)OCC1=CC=CC=C1 | C15H22N2O2
product | Benzyl 3-(isopropyl{[4-(4-methoxybutyl)-2,2-dimethyl-3-oxo-7-(trifluoromethyl)-3,4-dihydro-2H-1,4-benzoxazin-6-yl]carbonyl}amino)pyrrolidine-1-carboxylate | C(C)(C)N(C1CN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)C=1C(=CC2=C(N(C(C(O2)(C)C)=O)CCCCOC)C1)C(F)(F)F | C32H40F3N3O6
